US09422285B2
2-Methyl-4-phenyl-2-(trifluoromethyl)-1,3-oxazolidine (Diastereomers)
55.13 g (492.0 mmol) of 1,1,1-trifluoroacetone in toluene (1.35 l) were admixed with 45 g (328.0 mmol) of rac-2-amino-2-phenylethanol and 8.24 g (32.8 mmol) of pyridinium p-toluenesulphonate. The reaction mixture was boiled under reflux on a water separator for 16 h. The mixture was cooled to 0° C., and the solids formed were filtered off and dried under high vacuum. This gave 68.6 g (77% of theory, purity 85%) of the target compound.

reactant | 1,1,1-trifluoroacetone | 492.0 mmol, 55.13 g | FC(C(=O)C)(F)F | C3H3F3O
reactant | rac-2-amino-2-phenylethanol | 328.0 mmol, 45 g | NC(CO)C1=CC=CC=C1 | C8H11NO
reactant | pyridinium p-toluenesulphonate | 32.8 mmol, 8.24 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | toluene | 1.35 l | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-4-phenyl-2-(trifluoromethyl)-1,3-oxazolidine | CC1(OCC(N1)C1=CC=CC=C1)C(F)(F)F | C11H12F3NO
